data/oMe_Silver.jsonl
{"reaction_id": "NR-125_1-c1ccc(OC)cc1","name": "Kochi Reaction","level": "medium","reactants_smiles": ["C(Cc1ccc(OC)cc1)(=O)O","CC(=O)O[Pb](OC(C)=O)(OC(C)=O)OC(C)=O","[Li+].[Cl-]"],"products_smiles": ["C(c1ccc(OC)cc1)(Cl)"],"conditions": "","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(Cc1ccc(OC)cc1)(=O)O[Pb](OC(=O)C)(OC(=O)C)OC(=O)C","rationale": "Lead(IV) acetate acts as a strong electrophile, coordinating to the carboxylate oxygen; this facilitates displacement of acetate ligands due to Pb’s high oxidation state and strong affinity for oxygen donors."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Cc1ccc(OC)cc1)(=O)O(Cl)","rationale": "Chloride, a good nucleophile under these conditions, attacks the activated acyl intermediate, displacing the lead group due to its excellent leaving group ability and forming the more reactive acyl hypochlorite."},{"step": 3,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "c1ccc(OC)cc1[C]","rationale": "The weak O–Cl bond in the acyl hypochlorite undergoes homolytic cleavage under thermal or light activation, favored by the stability of the resulting alkyl radical and CO₂ extrusion."},{"step": 4,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(c1ccc(OC)cc1)(Cl)","rationale": "The alkyl radical rapidly reacts with chlorine radical, driven by the high reactivity of radicals and the formation of a strong C–Cl bond, completing the radical substitution."}],"description": "The Kochi reaction proceeds via lead(IV) acetate activation of the carboxylic acid, chloride substitution to form an acyl hypochlorite, homolytic cleavage to generate an alkyl radical, and radical chlorination to yield the alkyl chloride product."}
{"reaction_id": "NR-323_1-C(F)(F)F_2-CC_3-c1ccccc1_4-CC_5-CC_6-C","level": "easy","name": "Wittig Rearrangement-[2,3]","reactants_smiles": ["C(C(F)(F)F)(CC)=C(c1ccccc1)C(CC)(CC)OCC","CCCC[Li]"],"products_smiles": ["OC(C)C(C(F)(F)F)(CC)C(c1ccccc1)=C(CC)(CC)"],"conditions": "1. Strong Base (e.g., n-BuLi); 2. H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(CC)=C(c1ccccc1)C(CC)(CC)O[CH-]C","step_weight": 0,"rationale": "n-BuLi, a strong base, abstracts the relatively acidic α-proton adjacent to oxygen due to inductive electron withdrawal and stabilization of the resulting alkoxide by oxygen."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "[O-]C(C)C(C(F)(F)F)(CC)C(c1ccccc1)=C(CC)(CC)","step_weight": 0,"rationale": "The alkoxide undergoes a [2,3]-sigmatropic rearrangement, favored by orbital symmetry and relief of electron density through concerted bond reorganization, forming a more stable carbon–carbon bond adjacent to oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C)C(C(F)(F)F)(CC)C(c1ccccc1)=C(CC)(CC)","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation in protic conditions."}],"description": "A strong base deprotonates the α-position to oxygen, generating an alkoxide that undergoes a concerted [2,3]-sigmatropic rearrangement. This rearrangement shifts the carbon framework, forming a new C–C bond. Subsequent protonation yields the rearranged alcohol product."}
{"reaction_id": "NR-321_1-c1ccc(OC)cc1_2-c1ccc(OC)cc1_3-C","level": "easy","name": "Williamson Ether Synthesis","reactants_smiles": ["Oc1ccc(OC)cc1","BrC(c1ccc(OC)cc1)C","[Na][H]"],"products_smiles": ["C(Oc1ccc(OC)cc1)(c1ccc(OC)cc1)C"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]c1ccc(OC)cc1","step_weight": 0,"rationale": "NaH acts as a strong base, abstracting the alcohol proton due to the high acidity of the O–H bond and forming a resonance-stabilized alkoxide anion."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Oc1ccc(OC)cc1)(c1ccc(OC)cc1)C","step_weight": 0,"rationale": "The alkoxide, being a strong nucleophile, attacks the electrophilic carbon of the alkyl bromide in an SN2 fashion, favored by the good leaving ability of bromide and minimal steric hindrance."}],"description": "In the Williamson ether synthesis, an alcohol is first deprotonated by a strong base to form an alkoxide, which is a strong nucleophile. This alkoxide then undergoes an SN2 reaction with an alkyl halide, yielding the ether product efficiently under mild conditions."}
